*****************************************************************************
* Test Circuit: Gate Drive Comparison
* Task: temper-37v.3
* Purpose: Verify switching speed improvement with gate driver
******************************************************************************

.TITLE Gate Drive Comparison - Weak vs Strong


.INCLUDE common_options.spice

*------------------------------------------------------------------------------
* Circuit Definition
*------------------------------------------------------------------------------
* Weak drive (MCU pin simulation)
V_weak pulse_in 0 PULSE(0 3.3 0 10n 10n 20u 40u)
R_weak pulse_in gate_weak 1k
C_gate_weak gate_weak 0 2.7n

* Strong drive (gate driver simulation)
V_strong pulse_in2 0 PULSE(0 15 0 10n 10n 20u 40u)
R_strong pulse_in2 gate_strong 2.2
C_gate_strong gate_strong 0 2.7n

*------------------------------------------------------------------------------
* Analysis
*------------------------------------------------------------------------------
.tran 1n 40u

*------------------------------------------------------------------------------
* Control Block for automated measurement
*------------------------------------------------------------------------------
.control
run
print Trise_weak Trise_strong
* Measure 10%-90% rise times
meas tran Trise_weak TRIG v(gate_weak) VAL=0.33 RISE=1 TARG v(gate_weak) VAL=2.97 RISE=1
meas tran Trise_strong TRIG v(gate_strong) VAL=1.5 RISE=1 TARG v(gate_strong) VAL=13.5 RISE=1
.endc

.END
